US07470679B2
(S)-2-(1,4-dichloro-8-oxo-9-(2-(piperidin-1-yl)ethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid
(S)-Methyl 2-(1,4-dichloro-8-oxo-9-(2-(piperidin-1-yl)ethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate (260 mg, 0.573 mmol) was dissolved in a mixture of tetrahydrofuran (5.0 mL, 61.6 mmol) and methanol (5.0 mL, 123 mmol). Water (5.0 mL, 278 mmol) was added to the mixture followed by lithium hydroxide hydrate (65 mg, 1.549 mmol). Mixture was warmed to 50° C. and held with stirring for 4.5 hours. Mixture was cooled to room temperature. Organic solvents were removed from the mixture by roto-vap. Residue was neutralized with 1.6 mL 1N hydrochloric acid and treated with ethyl acetate. Mixture sat at room temperature for 20 minutes allowing solids to form. Solids were filtered off and washed with water. Solids were dried in vacuo. Title compound was obtained as white solid in 50% yield. MS (M−H)−=437.1, 439.2.

reactant | (S)-Methyl 2-(1,4-dichloro-8-oxo-9-(2-(piperidin-1-yl)ethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetate | 0.573 mmol, 260 mg | ClC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)OC)=O)CCN3CCCCC3)Cl | C21H26Cl2N4O3
reactant | tetrahydrofuran | 61.6 mmol, 5.0 mL | O1CCCC1 | C4H8O
reactant | methanol | 123 mmol, 5.0 mL | CO | CH4O
reactant | Water | 278 mmol, 5.0 mL | O | H2O
reactant | lithium hydroxide hydrate | 1.549 mmol, 65 mg | O.[OH-].[Li+]
product | (S)-2-(1,4-dichloro-8-oxo-9-(2-(piperidin-1-yl)ethyl)-3,6,7,8,9,10-hexahydroazepino[3,4-e]indazol-7-yl)acetic acid | 50% yield | ClC1=NNC=2C(=CC3=C(C12)CN(C([C@@H](C3)CC(=O)O)=O)CCN3CCCCC3)Cl | C20H24Cl2N4O3
